US05102877
To a solution of (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3-(pyrrolidin-3-yl)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (250 mg) was added benzyl formimidate hydrochloride (0.48 g) at 0° C. while adjusting pH to 8.5 with 30% aqueous sodium hydroxide solution. After 30 minutes at the same temperature, the solution was adjusted to pH 6.5 with 1N hydrochloric acid, washed with ethyl acetate and concentrated in vacuo. The residue was chromatographed on nonionic adsorption resin "Diaion HP-20" (Trademark, made by Mitsubishi Chemical Industries) eluting with 3% aqueous isopropyl alcohol. The fractions containing the desired compound were collected and lyophilized to give (5R,6S)-3-(1-formimidoylpyrrolidin-3-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (120 mg).

reactant | (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3-(pyrrolidin-3-yl)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 250 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)C1CNCC1 | C13H18N2O4
reactant | benzyl formimidate hydrochloride | 0.48 g | Cl.C(OCC1=CC=CC=C1)=N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
product | (5R,6S)-3-(1-formimidoylpyrrolidin-3-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 120 mg | C(=N)N1CC(CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)O | C14H19N3O4
